US09284315B2
(5) Preparation of 2-(4-(9-chloro-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1(2H)-yl)phenyl)-2-methylpropionitrile
2-(4-((6-chloro-3-((methylamino)methyl)-1,5-naphthyridin-4-yl)amino)phenyl)-2-methylpropionitrile (2.0 g, 5.5 mmol) was dissolved in dichloromethane (25 mL), to the reaction flask in an ice bath added triphosgene (1.8 g, 6.1 mmol) and triethylamine (0.7 mL). Then, the mixture was stirred at room temperature for 2 h. The reaction was quenched with a saturated aqueous solution of sodium carbonate, extracted with 100 mL of dichloromethane, the organic layer was dried over anhydrous sodium sulfate, the solvent was removed under reduced pressure to give 1.6 g of a pale yellow solid.

reactant | 2-(4-((6-chloro-3-((methylamino)methyl)-1,5-naphthyridin-4-yl)amino)phenyl)-2-methylpropionitrile | 5.5 mmol, 2.0 g | ClC=1N=C2C(=C(C=NC2=CC1)CNC)NC1=CC=C(C=C1)C(C#N)(C)C | C20H20ClN5
reactant | triphosgene | 6.1 mmol, 1.8 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 0.7 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-(4-(9-chloro-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1(2H)-yl)phenyl)-2-methylpropionitrile | 1.6 g | ClC1=NC=2C3=C(C=NC2C=C1)CN(C(N3C3=CC=C(C=C3)C(C#N)(C)C)=O)C | C21H18ClN5O
